US04443451
A mixture of 3.75 parts of 6-(2-chloroethyl)-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one, 3 parts of 3-(4-piperidinyl)-1H-indole, 10 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone was stirred and refluxed for 20 hours using a water-separator. The reaction mixture was filtered hot over Hyflo and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from ethanol, yielding 3.25 parts of 6-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one; mp. 274.7° C. (compound 11).

reactant | 6-(2-chloroethyl)-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one | ClCCC1=C(N=C2N(C1=O)C(=CS2)C)C | C10H11ClN2OS
reactant | 3-(4-piperidinyl)-1H-indole | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=C(N=C2N(C1=O)C(=CS2)C)C | C23H26N4OS
